US08252802B2
4-{4-[(3R)-3-Methylmorpholin-4-yl]-6-[1-(S-methylsulfonimidoyl)cyclopropyl]pyrimidin-2-yl}-1H-pyrrolo[2,3-c]pyridine
Tert-butyl 4-(4-((R)-3-methylmorpholino)-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-2-yl)-1H-pyrrolo[2,3-c]pyridine-1-carboxylate (0.223 g, 0.44 mmol) was added to TFA (5 ml) and DCM (5.00 ml). The resulting solution was stirred at RT for 1 hour. The reaction mixture was evaporated and the residue was purified by preparative HPLC using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated and the residue was triturated with Et2O to give a solid which was collected by filtration and dried under vacuum to afford the title compound (0.086 g, 48%); 1H NMR (400 MHz, DMSO-d6) 1.29 (3H, d), 1.40-1.60 (3H, m), 1.76 (1H, d), 3.11 (3H, s), 3.12-3.21 (1H, m), 3.53 (1H, t), 3.68 (1H, d), 3.80 (2H, d), 4.01 (1H, d), 4.20 (1H, s), 4.58 (1H, s), 6.95 (1H, d), 7.28 (1H, s), 7.71 (1H, s), 8.83 (1H, s), 9.08 (1H, s), 11.75 (1H, s); m/z: (ES+) MH+, 413.16.

reactant | Tert-butyl 4-(4-((R)-3-methylmorpholino)-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-2-yl)-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 0.44 mmol, 0.223 g | C[C@@H]1COCCN1C1=NC(=NC(=C1)C1(CC1)S(=O)(=N)C)C1=C2C(=CN=C1)N(C=C2)C(=O)OC(C)(C)C | C25H32N6O4S
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5.00 ml | C(Cl)Cl | CH2Cl2
product | 4-{4-[(3R)-3-Methylmorpholin-4-yl]-6-[1-(S-methylsulfonimidoyl)cyclopropyl]pyrimidin-2-yl}-1H-pyrrolo[2,3-c]pyridine | 0.086 g, 48% | C[C@H]1N(CCOC1)C1=NC(=NC(=C1)C1(CC1)S(=O)(=N)C)C1=C2C(=CN=C1)NC=C2 | C20H24N6O2S
